


.lib tt
.include '45nm_LP.pm'
.include '45nm_HP.pm'

* compatibility reasons
.subckt mosn d g s b mult='1' w='120e-9' l='45e-9'
m1 d g s b nmos_LP w=w l=l m='mult'
.ends

.subckt mosp d g s b mult='1' w='120e-9' l='45e-9'
m1 d g s b pmos_LP w=w l=l  m='mult'
.ends

* hvt/low power transistors
.subckt mosn_lp d g s b mult='1' w='120e-9' l='45e-9'
m1 d g s b nmos_LP w=w l=l m='mult'
.ends

.subckt mosp_lp d g s b mult='1' w='120e-9' l='45e-9'
m1 d g s b pmos_LP w=w l=l  m='mult'
.ends

* lvt/high power transistors
.subckt mosn_hp d g s b mult='1' w='120e-9' l='45e-9'
m1 d g s b nmos_HP w=w l=l m='mult'
.ends

.subckt mosp_hp d g s b mult='1' w='120e-9' l='45e-9'
m1 d g s b pmos_HP w=w l=l  m='mult'
.ends
.endl


.lib mc
.include '45nm_LP.pm'
.include '45nm_HP.pm'

* compatibility reasons
.subckt mosn d g s b mult='1' w='120e-9' l='45e-9'
.param abetan='1.1n'
.param avtn='2.5n'
.param dvtn=agauss(0,'avtn/sqrt(mult*w*l)',1)
.param dbetan_op_beta=agauss(0,'abetan/sqrt(mult*w*l)',1)
m1 d g s b nmos_LP w=w l=l delvto=dvtn m='mult*(1+dbetan_op_beta)'
.ends

.subckt mosp d g s b mult='1' w='120e-9' l='45e-9'
.param abetan='1.1n'
.param avtn='2.5n'
.param dvtn=agauss(0,'avtn/sqrt(mult*w*l)',1)
.param dbetan_op_beta=agauss(0,'abetan/sqrt(mult*w*l)',1)
m1 d g s b pmos_LP w=w l=l delvto=dvtn  m='mult*(1+dbetan_op_beta)'
.ends


* hvt/low power transistors
.subckt mosn_lp d g s b mult='1' w='120e-9' l='45e-9'
.param abetan='1.1n'
.param avtn='2.5n'
.param dvtn=agauss(0,'avtn/sqrt(mult*w*l)',1)
.param dbetan_op_beta=agauss(0,'abetan/sqrt(mult*w*l)',1)
m1 d g s b nmos_LP w=w l=l delvto=dvtn m='mult*(1+dbetan_op_beta)'
.ends

.subckt mosp_lp d g s b mult='1' w='120e-9' l='45e-9'
.param abetan='1.1n'
.param avtn='2.5n'
.param dvtn=agauss(0,'avtn/sqrt(mult*w*l)',1)
.param dbetan_op_beta=agauss(0,'abetan/sqrt(mult*w*l)',1)
m1 d g s b pmos_LP w=w l=l delvto=dvtn  m='mult*(1+dbetan_op_beta)'
.ends


* lvt/high power transistors
.subckt mosn_hp d g s b mult='1' w='120e-9' l='45e-9'
.param abetan='1.1n'
.param avtn='2.5n'
.param dvtn=agauss(0,'avtn/sqrt(mult*w*l)',1)
.param dbetan_op_beta=agauss(0,'abetan/sqrt(mult*w*l)',1)
m1 d g s b nmos_HP w=w l=l delvto=dvtn m='mult*(1+dbetan_op_beta)'
.ends

.subckt mosp_hp d g s b mult='1' w='120e-9' l='45e-9'
.param abetan='1.1n'
.param avtn='2.5n'
.param dvtn=agauss(0,'avtn/sqrt(mult*w*l)',1)
.param dbetan_op_beta=agauss(0,'abetan/sqrt(mult*w*l)',1)
m1 d g s b pmos_HP w=w l=l delvto=dvtn  m='mult*(1+dbetan_op_beta)'
.ends


.endl
